US08106064B2
3-{3-[Cyano-(5-isopropyl-2,6-dimethoxy-pyrimidin-4-yl)-methyl]-5-methyl-phenyl}-acrylonitrile (96):
To a stirred mixture of 4-chloro-5-isopropyl-2,6-dimethoxy-pyrimidine (7.12 g, 32.88 mmol) and 3-(3-bromomethyl-5-methyl-phenyl)-acrylonitrile (5.7 g, 31.21 mmol) in anhydrous DMF (60 ml) at 0° C. (ice bath) under nitrogen atmosphere, was portionwise added 60% sodium hydride (2.76 g, 68.88 mmol). After stirring for 1 hr., the mixture was further stirred at room temperature for overnight. The mixture was then neutralized with aqueous saturated ammonium chloride solution and the crude product was extracted with ether and purified by silica gel column chromatography (eluent, EA: hexanes (from 1:4 to 1:2)) to afford 1.8 g (16%) of a pale yellow foam. 1H NMR (300 MHz, CDCl3) δ 1.12 (3H, d, J=6.9 Hz), 1.15 (3H, d, J=6.9 Hz), 2.37 (3H, s), 3.02 (1H, m), 4.01 (6H, s), 5.39 (1H, s), 5.87 (1H, d, J=16.5 Hz), 7.23 (1H, s), 7.25 (1H, s), 7.27 (1H, s), 7.33 (1H, d, J=16.5 Hz).

reactant | 4-chloro-5-isopropyl-2,6-dimethoxy-pyrimidine | 32.88 mmol, 7.12 g | ClC1=NC(=NC(=C1C(C)C)OC)OC | C9H13ClN2O2
reactant | 3-(3-bromomethyl-5-methyl-phenyl)-acrylonitrile | 31.21 mmol, 5.7 g | BrCC=1C=C(C=C(C1)C)C=CC#N | C11H10BrN
reactant | sodium hydride | 68.88 mmol, 2.76 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 3-{3-[Cyano-(5-isopropyl-2,6-dimethoxy-pyrimidin-4-yl)-methyl]-5-methyl-phenyl}-acrylonitrile | 1.8 g, 16% | C(#N)C(C=1C=C(C=C(C1)C)C=CC#N)C1=NC(=NC(=C1C(C)C)OC)OC | C21H22N4O2
